US08609657B2
N-[5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]-2,4-difluorobenzenesulfonamide
To a solution of 6-chloro-4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazole (0.2 g, 0.411 mmol) and 2,4-difluoro-N-[2-(methoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]benzenesulfonamide (0.228 mg, 0.534 mmol) in 1,4-dioxane (2 ml) was added chloro[2′-(dimethylamino)-2-biphenylyl]palladium-(1R,4S)-bicyclo[2.2.1]hept-2-yl[(1S,4R)-bicyclo[2.2.1]hept-2-yl]phosphane (11.5 mg, 0.021 mmol), potassium phosphate tribasic (0.262 g, 1.23 mmol) and water (0.2 ml). The reaction mixture was heated to 120° C. with stirring for 3 h under microwave irradiation, then filtered through a silica SPE, eluting with methanol. The solvent was removed and the residue partitioned between dichloromethane (5 ml) and water (5 ml). The layers were separated and the aqueous extracted with further dichloromethane (2×2.5 ml). The combined organics were concentrated under a stream of nitrogen and the residue dissolved in DMSO and a few drops of dichloromethane (3 ml) and purified by MDAP (method A) in 3 injections. The appropriate fractions were evaporated in vacuo to give the title compound as a pale brown solid (0.105 g).

reactant | 6-chloro-4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazole | 0.411 mmol, 0.2 g | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=CN1)CN1C[C@H](O[C@H](C1)C)C | C23H23ClN4O4S
reactant | 2,4-difluoro-N-[2-(methoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]benzenesulfonamide | 0.534 mmol, 0.228 mg | FC1=C(C=CC(=C1)F)S(=O)(=O)NC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OC | C18H21BF2N2O5S
reactant | potassium phosphate tribasic | 1.23 mmol, 0.262 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | water | 0.2 ml | O | H2O
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | chloro[2′-(dimethylamino)-2-biphenylyl]palladium (1R,4S)-bicyclo[2.2.1]hept-2-yl[(1S,4R)-bicyclo[2.2.1]hept-2-yl]phosphane | 0.021 mmol, 11.5 mg | Cl[Pd]C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C.[C@@H]12C(C[C@@H](CC1)C2)PC2[C@H]1CC[C@@H](C2)C1
product | N-[5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]-2,4-difluorobenzenesulfonamide | 0.105 g | C[C@@H]1CN(C[C@@H](O1)C)CC1=CN=C(O1)C1=C2C=NN(C2=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C1=C(C=C(C=C1)F)F)S(=O)(=O)C1=CC=CC=C1 | C35H32F2N6O7S2
